### PR TITLE
[Merged by Bors] - chore(Data/Fintype): split `Fintype/Card.lean`

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR splits `Data.Fintype.Card` based on dependencies:
* `Data.Fintype.Card` contains the definition of `Fintype.card` and basic results
* `Data.Fintype.EquivFin` contains the equivalences between fintypes, finiteness and `Fin`
* `Data.Fintype.Pigeonhole` contains a few pigeonhole principles
* `Data.Fintype.Group` gets a few extra results on `Additive`/`Multiplicative`

---

- [x] depends on: #21831

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/Pigeonhole.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+  formulation.
+
+Some more pigeonhole-like statements can be found in `Data.Fintype.CardEmbedding`.
+
+## Instances
+
+We provide `Infinite` instances for
+* specific types: `ℕ`, `ℤ`, `String`
+* type constructors: `Multiset α`, `List α`
+
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Pigeonhole.lean:29]: Looks like copy-pasta

File: Mathlib/Data/Fintype/Powerset.lean [hunk 2]
```diff
@@ -56,7 +56,7 @@ instance Set.fintype [Fintype α] : Fintype (Set α) :=
     simp⟩
 
 -- Not to be confused with `Set.Finite`, the predicate
-instance Finite.instSet [Finite α] : Finite (Set α) := by
+instance Set.finite' [Finite α] : Finite (Set α) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Powerset.lean:59]:
```suggestion
instance Set.instFinite [Finite α] : Finite (Set α) := by
```

File: Mathlib/Data/Fintype/EquivFin.lean [hunk 3]
```diff
@@ -0,0 +1,688 @@
...
+  ⟨fun h =>
+    haveI := Classical.propDecidable
+    (truncEquivOfCardEq h).nonempty,
+    fun ⟨f⟩ => card_congr f⟩
+
+end Fintype
+
+@[simp]
+theorem Fintype.card_fin (n : ℕ) : Fintype.card (Fin n) = n :=
+  List.length_finRange n
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/EquivFin.lean:157]: Shouldn't that be closer to the `Fintype (Fin n)` instance?

Comment (Vierkantor) [reply Mathlib/Data/Fintype/EquivFin.lean:157]: We can indeed upstream it to `Fintype/Card.lean` itself, since that imports `Fintype/Basic.lean` which holds the `Fintype (Fin n)` instance.

**Comment by j-loreaux** [comment]
I'm confused, how did the dependencies for `Mathlib.Algebra.Group.TypeTags.Fintype` *increase* due to the split (by 16, when the split was only 4-way)?

**Comment by Vierkantor** [comment]
> I'm confused, how did the dependencies for `Mathlib.Algebra.Group.TypeTags.Fintype` _increase_ due to the split (by 16, when the split was only 4-way)?

I redid the import order so `TypeTags.Fintype` now imports `Fintype.Card` instead of the other way around. Although `Fintype.Card` reduced from 478 to 423 imports, that's still more than `Fintype.OfMap` used to have.

**Comment by Vierkantor** [comment]
I think since `TypeTags.Fintype` didn't cause any downstream increases, one `+16` is a fine tradeoff for the other decreases.

File: Mathlib/Data/Fintype/EquivFin.lean [hunk 4]
```diff
@@ -0,0 +1,684 @@
...
+
+theorem Fin.val_eq_val_of_heq {k l : ℕ} {i : Fin k} {j : Fin l} (h : HEq i j) :
+    (i : ℕ) = (j : ℕ) :=
+  (Fin.heq_ext_iff (fin_injective (type_eq_of_heq h))).1 h
+
+/-- A reversed version of `Fin.cast_eq_cast` that is easier to rewrite with. -/
+theorem Fin.cast_eq_cast' {n m : ℕ} (h : Fin n = Fin m) :
+    _root_.cast h = Fin.cast (fin_injective h) := by
+  cases fin_injective h
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/EquivFin.lean:179]: All of this can be moved earlier, I believe

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by bryangingechen** [comment]
Thanks!
bors d+

File: Mathlib/Data/Fintype/EquivFin.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Data/Fintype/EquivFin.lean]: You are completely correct, these now live together with `Fintype.card_fin` into their own section in `Fintype.Card`.

**Comment by Vierkantor** [comment]
Build passed, so let's merge this before more conflicts arise!

bors merge
